US05218109
The procedure of Example 6 was repeated except that 105 mg of 1α,3β-diacetoxypregna-5,7-diene-20-carbaldehyde was used in lieu of 120 mg of 1α,3β-bis(methoxycarbonyloxy)pregna-5,7-diene-20-carbaldehyde to give 89 mg of 1α,3β-diacetoxypregna-5,7-diene-20-carboxylic acid.

reactant | 1α,3β-diacetoxypregna-5,7-diene-20-carbaldehyde | 105 mg | C(C)(=O)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC[C@H](C(C)C=O)[C@]4(CC[C@@H]3[C@@]12C)C)OC(C)=O | C26H36O5
reactant | 1α,3β-bis(methoxycarbonyloxy)pregna-5,7-diene-20-carbaldehyde | 120 mg | COC(=O)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC[C@H](C(C)C=O)[C@]4(CC[C@@H]3[C@@]12C)C)OC(=O)OC | C26H36O7
product | 1α,3β-diacetoxypregna-5,7-diene-20-carboxylic acid | 89 mg | C(C)(=O)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC[C@H](C(C)C(=O)O)[C@]4(CC[C@@H]3[C@@]12C)C)OC(C)=O | C26H36O6
